US06440995B1
(RS)-3-(2-Benzo[b]thiophen-2-yl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 253-255° C., and MS: m/e=386 (M+), was prepared from 2-benzo[b]thiophen-2-yl-4-chloro-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 2-benzo[b]thiophen-2-yl-4-chloro-quinoline | S1C2=C(C=C1C1=NC3=CC=CC=C3C(=C1)Cl)C=CC=C2 | C17H10ClNS
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(2-Benzo[b]thiophen-2-yl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.S1C2=C(C=C1C1=NC3=CC=CC=C3C(=C1)NCC(CO)O)C=CC=C2 | InChI=1S/C20H18N2O2S.ClH/c23-12-14(24)11-21-17-10-18(22-16-7-3-2-6-15(16)17)20-9-13-5-1-4-8-19(13)25-20;/h1-10,14,23-24H,11-12H2,(H,21,22);1H
